US05364871
Acetoxyacetyl chloride (0.7 g) was added to a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (1.5 g) and triethylamine (2.6 ml) in dichloromethane (30 ml) under ice-cooling and the mixture was stirred at ambient temperature for 20 hours. The reaction mixture was added to a mixture of tetrahydrofuran, ethyl acetate and water and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was separated and purified by column chromatograpy on silica gel, and eluted with a mixture of chloroform and methanol (9:1, V/V). The eluted fast fractions containing the desired were collected and evaporated in vacuo to give 4-(6-acetoxyacetylaminomethylpyridin-2-yl)-2-[(acetoxyacetylamino)(amino)methyleneamino]thiazole (0.3 g).

reactant | Acetoxyacetyl chloride | 0.7 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 1.5 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(6-acetoxyacetylaminomethylpyridin-2-yl)-2-[(acetoxyacetylamino)(amino)methyleneamino]thiazole | 0.3 g | C(C)(=O)OCC(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)NC(COC(C)=O)=O | C18H20N6O6S
